US05948820
(8) 2-Amino-2-[3-(4-undecylphenyl)propyl]butane-1,4-diol
3-Acetamido-3-acetoxymethyl-6-(4-undecylphenyl)hexyl acetate (1.70 g) and lithium hydroxide monohydrate (1.42 g) were dissolved in methanol (17 ml) and water (17 ml), and the mixture was refluxed under heating for 3 hours while stirring. The reaction mixture was diluted with water (100 ml) and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was distilled away. The crude crystals obtained were recrystallized from ether-hexane-ethyl acetate (2:2:1) to give the subject compound (330 mg) as white crystals, melting at 73-76° C.

reactant | 3-Acetamido-3-acetoxymethyl-6-(4-undecylphenyl)hexyl acetate | 1.70 g | C(C)(=O)OCCC(CCCC1=CC=C(C=C1)CCCCCCCCCCC)(COC(C)=O)NC(C)=O | C30H49NO5
reactant | lithium hydroxide monohydrate | 1.42 g | O.[OH-].[Li+]
solvent | methanol | 17 ml | CO | CH4O
solvent | water | 17 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-Amino-2-[3-(4-undecylphenyl)propyl]butane-1,4-diol | 330 mg | NC(CO)(CCO)CCCC1=CC=C(C=C1)CCCCCCCCCCC | C24H43NO2
